US04230628
A solution of 4 g. 2-(ethoxycarbonyl)vinyl 4-(15-carbomethoxypentadecylamino)benzoate and 400 mg. 10% palladium-on-carbon in 100 ml. tetrahydrofuran is hydrogenated at 50 psi until hydrogen uptake stops. The catalyst is filtered, the solution is evaporated, and the residue is crystallized from acetonitrile to yield 2-(ethoxycarbonyl)ethyl 4-(15-carbomethoxypentadecylamino)benzoate.

reactant | 2-(ethoxycarbonyl)vinyl 4-(15-carbomethoxypentadecylamino)benzoate | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OC=CC(=O)OCC)C=C1 | C29H45NO6
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-(ethoxycarbonyl)ethyl 4-(15-carbomethoxypentadecylamino)benzoate | C(=O)(OC)CCCCCCCCCCCCCCCNC1=CC=C(C(=O)OCCC(=O)OCC)C=C1 | C29H47NO6
